US08957203B2
2-(4-isopropoxyphenyl)acetic acid (3.97 g, 20.44 mmol), 4-fluoro-3-methoxybenzaldehyde (3.15 g, 20.44 mmol), Ac2O (3.47 ml, 36.8 mmol), and Et3N (1.994 ml, 14.31 mmol) were heated to 110° C. for 16 h. The reaction was cooled down to rt and diluted with water and EtOAc. The organic layer was collected, dried over sodium sulfate, and concentrated under vacuum. The crude material was purified by silica gel chromatography using 10-20% EtOAc/Hexanes. The product fractions were collected and the solvent removed under vacuum to give (E)-3-(4-fluoro-3-methoxyphenyl)-2-(4-isopropoxyphenyl)acrylic acid (4.4 g, 65% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.85 (s, 1H), 7.22-7.16 (m, 2H), 6.98-6.91 (m, 3H), 6.82 (ddd, J=8.3, 4.6, 2.1 Hz, 1H), 6.63 (dd, J=8.5, 2.0 Hz, 1H), 4.64-4.54 (m, 1H), 3.51 (s, 3H), 1.39-1.35 (m, 6H).

reactant | 2-(4-isopropoxyphenyl)acetic acid | 20.44 mmol, 3.97 g | C(C)(C)OC1=CC=C(C=C1)CC(=O)O | C11H14O3
reactant | 4-fluoro-3-methoxybenzaldehyde | 20.44 mmol, 3.15 g | FC1=C(C=C(C=O)C=C1)OC | C8H7FO2
reactant | Ac2O | 36.8 mmol, 3.47 ml | CC(=O)OC(=O)C | C4H6O3
reactant | Et3N | 14.31 mmol, 1.994 ml | CCN(CC)CC | C6H15N
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (E)-3-(4-fluoro-3-methoxyphenyl)-2-(4-isopropoxyphenyl)acrylic acid | 4.4 g, 65% yield | FC1=C(C=C(C=C1)/C=C(/C(=O)O)\C1=CC=C(C=C1)OC(C)C)OC | C19H19FO4
